US07737279B2
A469.1: (S)-2-{[1-(6-Bromo-pyridin-2-yl)-meth-(E)-ylidene]-amino}-3-methyl-butyric acid methyl ester
Anhydrous magnesium sulfate (5.4 g), 6-bromopyridine-2-carboxaldehyde (5.0 g, 26.9 mmol) and triethylamine (3.75 mL, 26.9 mmol) were each added sequentially in one portion to a cooled (0° C.) solution of (L)-valine methyl ester hydrochloride (4.51 g, 26.9 mmol) and the reaction mixture was allowed to warm slowly to room temperature overnight under a nitrogen atmosphere. The mixture was then filtered and the filter cake washed with diethyl ether (100 mL) before evaporating the filtrate in vacuo. The residue was purified by column chromatography using 5:1 hexane/ethyl acetate as eluent to yield A469.1 (7.1 g, 88%). HPLC YMC S-5 4.6×33 mm (2 min grad): retention time 0.86 min, M+H+=202.08

reactant | magnesium sulfate | 5.4 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 6-bromopyridine-2-carboxaldehyde | 26.9 mmol, 5.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | triethylamine | 26.9 mmol, 3.75 mL | C(C)N(CC)CC | C6H15N
reactant | (L)-valine methyl ester hydrochloride | 26.9 mmol, 4.51 g | Cl.COC([C@@H](N)C(C)C)=O
product | (S)-2-{[1-(6-Bromo-pyridin-2-yl)-meth-(E)-ylidene]-amino}-3-methyl-butyric acid methyl ester | COC([C@H](C(C)C)/N=C/C1=NC(=CC=C1)Br)=O | C12H15BrN2O2
